US04046894
Sodium barbital (4.0 g.) was suspended in 50 ml of dimethylformamide. To the suspension was added, over a period of 5 minutes, chloromethyl n-dodecyl ether (10 g.). The suspension was heated at 110° C. for a period of 1 hour and then allowed to stand overnight without heating. The suspension was poured into 500 ml of ice water and the resulting aqueous emulsion was extracted with ethyl acetate. The ethyl acetate solution was dried and the ethyl acetate was evaporated under reduced pressure to yield an oil, which was purified by column chromatography using silica gel (70-325 mesh). Elution with benzene provided 1,3-di-n-dodecyloxymethyl-5,5-diethyl barbituric acid.

reactant | Sodium barbital | 4.0 g | CCC1(C(=O)NC(=NC1=O)[O-])CC.[Na+]
reactant | chloromethyl n-dodecyl ether | 10 g | C(CCCCCCCCCCC)OCCl | C13H27ClO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,3-di-n-dodecyloxymethyl-5,5-diethyl barbituric acid | C(CCCCCCCCCCC)OCN1C(=O)N(C(=O)C(C1=O)(CC)CC)COCCCCCCCCCCCC | C34H64N2O5
